US05872167
A dry 2-liter beaker was charged with 135 ml of distilled water and 84 grams (1.0 moles) of sodium bicarbonate. The resulting mixture was stirred as 207 grams (1.0 mole) of N-(3-hydroxyphenyl)maleamic acid was slowly added with gas evolution. The thick mixture was stirred for 4 hours after the addition was complete and vacuum filtered to remove as much aqueous as possible. The filter cake was dried below 50° C. in a draft hood to give sodium N-(hydroxyphenyl)maleamate which is a tan solid melting above 200° C.

reactant | sodium bicarbonate | 1.0 moles, 84 grams | C([O-])(O)=O.[Na+]
reactant | N-(3-hydroxyphenyl)maleamic acid | 1.0 mole, 207 grams | OC=1C=C(C=CC1)NC(\C=C/C(=O)O)=O | C10H9NO4
solvent | water | 135 ml | O | H2O
product | sodium N-(hydroxyphenyl)maleamate | OC1=C(C=CC=C1)NC(\C=C/C(=O)[O-])=O.[Na+] | InChI=1S/C10H9NO4.Na/c12-8-4-2-1-3-7(8)11-9(13)5-6-10(14)15;/h1-6,12H,(H,11,13)(H,14,15);/q;+1/p-1/b6-5-;
